US07417056B2
8-Fluoro-5-[4-(5-Fluoro-2,3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentylamino]-2-methylquinoline
Analogously to Example 1, the corresponding imine is produced starting from 45 mg of 4-(2,3-dihydro-5-fluoro-7-benzofuranyl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentanal and 25 mg of 5-amino-8-fluoro-2-methylquinoline. After reaction with sodium cyanoborohydride, the title compound is obtained.

reactant | 4-(2,3-dihydro-5-fluoro-7-benzofuranyl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentanal | 45 mg | FC=1C=C(C2=C(CCO2)C1)C(CC(C=O)(C(F)(F)F)O)(C)C | C15H16F4O3
reactant | 5-amino-8-fluoro-2-methylquinoline | 25 mg | NC1=C2C=CC(=NC2=C(C=C1)F)C | C10H9FN2
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | 8-Fluoro-5-[4-(5-Fluoro-2,3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentylamino]-2-methylquinoline | FC=1C=CC(=C2C=CC(=NC12)C)NCC(CC(C)(C)C1=CC(=CC=2CCOC21)F)(C(F)(F)F)O | C25H25F5N2O2
